US07745641B2
In a similar manner to Step 1 of Example 137, 2-chloro-5-methylnicotinic acid (2.00 g, 11.7 mmol) was dissolved in DMF (40 mL), and the solution was treated with EDCI (3.35 g, 17.5 mmol), HOBT monohydrate (890 mg, 5.83 mmol) and cumylamine (3.40 mL, 23.3 mmol). The mixture was added with water. The precipitated solid was collected by filtration and dried under reduced pressure to obtain 2-chloro-6-methyl-N-(1-methyl-1-phenylethyl)nicotinamide (2.09 mg, yield 62%).

reactant | 2-chloro-5-methylnicotinic acid | 11.7 mmol, 2.00 g | ClC1=C(C(=O)O)C=C(C=N1)C | C7H6ClNO2
reactant | EDCI | 17.5 mmol, 3.35 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT monohydrate | 5.83 mmol, 890 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | cumylamine | 23.3 mmol, 3.40 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-chloro-6-methyl-N-(1-methyl-1-phenylethyl)nicotinamide | 2.09 mg, yield 62% | ClC1=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC(=N1)C | C16H17ClN2O
